US04593035
6-Amino-3,4-dihydrocarbostyril (1 g) is suspended in benzene (20 ml), and thereto is added dropwise a solution of N,N-dimethylcarbamoyl chloride (0.86 ml) in benzene (10 ml) at room temperature. The mixture is reacted at 50° C. for 3 hours, and thereto is added triethylamine (0.86 ml), and the mixture is further reacted at 50° to 60° C. for 5 hours. After the reaction, benzene is distilled off under reduced pressure, and water is added to the residue. The resulting precipitate is separated by filtration and washed with water. The crystal thus obtained is purified by silica gel column chromatography (solvent; chloroform:methanol=100:1) and then recrystallized from methanol-diethyl ether to give 6-(3,3-dimethylureido)-3,4-dihydrocarbostyril (0.6 g), as colorless prisms, m.p. 181°-183° C.

reactant | 6-Amino-3,4-dihydrocarbostyril | 1 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | N,N-dimethylcarbamoyl chloride | 0.86 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 0.86 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 6-(3,3-dimethylureido)-3,4-dihydrocarbostyril | 0.6 g | CN(C(NC=1C=C2CCC(NC2=CC1)=O)=O)C | C12H15N3O2
